US08648096B2
To a suspension of 3-(4-methylaminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.60 g, 1.86 mmol) and cyclohexyl isocyanate (0.28 mL, 2.23 mmol) in dry CH2Cl2 (80 ml), was added diisopropylethylamine (0.45 mL g, 2.60 mmol). The mixture was stirred at room temperature overnight. The mixture was quenched with MeOH and extracted with H2O (40 mL), then with 1N HCl (40 mL). The organic layer was washed with brine (40 mL) and concentrated on rota-vap. The resulting oil was purified on silica gel column to give 3-cyclohexyl-1-[2-(2,6-dioxo-piperidin-3-yl) 1-oxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-1-methyl-urea (0.54 g, 71%): mp 219-221° C.; HPLC: Waters Symmetry C-18, 3.9×150 mm, 5 micro, 1 mL/min, 240 nm, 30/70 (CH3CN/H2O): tR=4.61 (99%); 1H NMR (DMSO-d6): δ 1.02-1.30 (m, 5H), 1.54-1.76 (m, 5H), 2.00-2.05 (m, 1H), 2.29-2.36 (m, 1H), 2.58-2.64 (m, 1H), 2.76 (s, 3H), 2.87-3.01 (m, 1H), 3.36-3.42 (m, 1H), 4.28 (d, J=17.3 Hz, 1H), 4.36 (d, J=17.5 Hz, 1H), 4.53 (s, 2H), 5.12-5.19 (dd, J=4.9, 13.1 Hz, 1H), 6.07 (d, J=7.7 Hz, 1H), 7.38 (d, J=7.4 Hz, 1H), 7.50 (t, J=7.4 Hz, 1H), 7.61 (d, J=7.4 Hz, 1H), 11.03 (s, 1H). 13C NMR (DMSO-d6) δ: 22.69, 25.10, 25.35, 31.14, 33.22, 34.00, 46.12, 48.21, 49.34, 51.45, 121.59, 128.30, 130.08, 131.87, 134.41, 139.99, 157.09, 168.02, 170.99, 172.84. Anal Calcd for C22H28N4O4+0.1H2O: C, 63.78; H, 6.86; N, 13.52. Found: C, 63.41; H, 6.93; N, 13.33.

reactant | 3-(4-methylaminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.86 mmol, 0.60 g | Cl.CNCC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O
reactant | cyclohexyl isocyanate | 2.23 mmol, 0.28 mL | C1(CCCCC1)N=C=O | C7H11NO
reactant | diisopropylethylamine | 2.60 mmol, 0.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
product | 3-cyclohexyl-1-[2-(2,6-dioxo-piperidin-3-yl) 1-oxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-1-methyl-urea | 0.54 g, 71% | C1(CCCCC1)NC(N(C)CC1=C2CN(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C22H28N4O4
